US07122679B2
Ethyl 4-Cyano-1,2,3,10-tetrahydrocyclopenta[a]carbazole-5-carboxylate
DDQ (39 mg, 0.17 mmol, 220 mol %) was added to solution of ethyl 4-cyano-1,2,3,4,5,10-hexahydrocyclopenta[a]carbazole-5-carboxylate (24 mg, 0.078 mmol) in toluene (12 mL). The solution immediately turned dark brown, and was stirred at 20° C. for 1.5 hr. The solvent was evaporated. The residue was dissolved in EtOAc and rinsed with dilute aqueous ascorbic acid and twice with saturated NaHCO3. Evaporation of the solvent afforded crude product (21 mg) which was recrystallized from EtOAc gave the product (9 mg, 38% yield) as a beige solid, mp 229–231° C. NMR (CDCl3) δ 8.28 (s, 1H), 7.49 (s, 2H), 7.26 (s, 2H), 4.64 (q, 2H), 3.30 (t, 2H), 3.20 (t, 2H), 2.36 (quintet, 2H), 1.54 (t, 3H).

reactant | DDQ | 0.17 mmol, 39 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | ethyl 4-cyano-1,2,3,4,5,10-hexahydrocyclopenta[a]carbazole-5-carboxylate | 0.078 mmol, 24 mg | C(#N)C1C2=C(C=3NC4=CC=CC=C4C3C1C(=O)OCC)CCC2 | C19H18N2O2
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-Cyano-1,2,3,10-tetrahydrocyclopenta[a]carbazole-5-carboxylate | 9 mg, 38% yield | C(#N)C1=C2C(=C3NC4=CC=CC=C4C3=C1C(=O)OCC)CCC2 | C19H16N2O2
